US07691893B2
(1S,6R)-6-(3,4-dichlorophenyl)-3-methyl-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane (E12)
(1S,6R)-6-(3,4-dichlorophenyl)-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane (E2a, 25 mg) was dissolved in methanol (1 mL); acetic acid (0.015 mL) was added followed by sodium triacetoxyborohydride (27.8 mg) and formaldehyde 37% in water (0.06 mL). The reaction mixture was stirred at room temperature overnight. Volatiles were then evaporated and the residue partitioned between DCM (20 mL) and aqueous sat NaHCO3 (20 mL) solution, dried and concentrated. Purification by chromatography (NH column) eluting with a gradient 0-100% ethyl acetate-cyclohexane afforded the title compound (16 mg).

reactant | (1S,6R)-6-(3,4-dichlorophenyl)-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane | 25 mg | ClC=1C=C(C=CC1Cl)[C@]12CCNC[C@@]2(C1)COC | C14H17Cl2NO
reactant | acetic acid | 0.015 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 27.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.06 mL | O | H2O
product | (1S,6R)-6-(3,4-dichlorophenyl)-3-methyl-1-[(methyloxy)methyl]-3-azabicyclo[4.1.0]heptane | 16 mg | ClC=1C=C(C=CC1Cl)[C@]12CCN(C[C@@]2(C1)COC)C | C15H19Cl2NO
